US07259179B2
N-Methyl-1H-benzimidazole-5-carboxamide
In a procedure analogous to example 20, reaction of benzimidazole-5-carboxylic acid and aqueous methylamine furnished the product in 67% yield.

reactant | benzimidazole-5-carboxylic acid | N1=CNC2=C1C=CC(=C2)C(=O)O | C8H6N2O2
reactant | methylamine | CN | CH5N
product | N-Methyl-1H-benzimidazole-5-carboxamide | 67% yield | CNC(=O)C1=CC2=C(NC=N2)C=C1 | C9H9N3O
